### PR TITLE
cleanup, creating Finite folder

### PR DESCRIPTION
**Pull request by ooovi**

### CODE REVIEW

File: Polyhedral/Polyhedral/Faces.lean [hunk 1]
```diff
@@ -229,3 +230,4 @@ def coatoms : Set (Face (C : PointedCone R M)) := sorry
 end Field
 
 end PointedCone
+#min_imports
```
Comment (martinwintermath) [inline Polyhedral/Polyhedral/Faces.lean]: Delete this

File: Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Lineal.lean [hunk 2]
```diff
@@ -300,16 +283,8 @@ lemma span_inter_lineal_eq_lineal (s : Set M) :
   --   -- rw [Submodule.mem_span_finite_of_mem_span] at h
     -- sorry
 
-lemma FG.lineal_fg {C : PointedCone R M} (hC : C.FG) : C.lineal.FG := by classical
-  obtain ⟨s, hs⟩ := hC
-  use (s.finite_toSet.inter_of_left C.lineal).toFinset -- means {x ∈ s | x ∈ C.lineal}
-  rw [submodule_span_of_span]
-  simpa [← hs] using span_inter_lineal_eq_lineal R (s : Set M)
-
```
Comment (martinwintermath) [inline Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Lineal.lean:308]: Why was this deleted?

Comment (ooovi) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Lineal.lean:308]: is changed files to `Pointed.Finite.Basic`. not sure that's the right move

Comment (martinwintermath) [reply Polyhedral/Mathlib/Geometry/Convex/Cone/Pointed/Lineal.lean:308]: By the way, didn't we plan to prove this from the fact that lineal is a face?
